US07985753B2
5,6-Dimethoxy-1-methyl-3,4-dihydro-isoquinoline
In close analogy to the procedure described above, N-[2-(2,3-dimethoxy-phenyl)-ethyl]-acetamide is reacted with phosphorus pentoxide to provide the title compound.

reactant | N-[2-(2,3-dimethoxy-phenyl)-ethyl]-acetamide | COC1=C(C=CC=C1OC)CCNC(C)=O | C12H17NO3
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 5,6-Dimethoxy-1-methyl-3,4-dihydro-isoquinoline | COC1=C2CCN=C(C2=CC=C1OC)C | C12H15NO2
